US09382226B2
Diisopropylamine (136 mmol, 19.11 ml, 13.80 g) and THF (120 ml) were combined in a 3-necked flask under nitrogen and cooled to −78° C. N-butyllithium (2.5M in hexane) (125 mmol, 50.0 ml) was added dropwise and the mixture stirred at −78° C. for 30 minutes. A solution of 3-bromo-5-fluoropyridine (114 mmol, 20 g) in THF (40 ml) was added dropwise and stirring continued at −78° C. for a further 30 minutes. Iodomethane (136 mmol, 8.49 ml, 19.36 g) was added and the reaction mixture allowed to warm slowly to room temperature and stirred for 18 hours. The reaction was diluted with 1:1 saturated sodium bicarbonate solution/water (200 ml) and extracted with EtOAc (600 ml). Organics were washed with saturated sodium chloride solution (100 ml) and dried over sodium sulphate. Solvent was evaporated under reduced pressure to afford crude product as a brown oil. Purification by silica chromatography eluting with 0% to 15% EtOAc/heptane afforded product 3-bromo-5-fluoro-4-methylpyridine (54.1% yield) as a clear oil. 1H NMR (CDCl3)δ: 8.49 (s, 1H), 8.31 (s, 1H), 2.37 (s, 3H).

reactant | Diisopropylamine | 136 mmol, 19.11 ml, 13.80 g | C(C)(C)NC(C)C | C6H15N
reactant | N-butyllithium | 125 mmol, 2.5M, 50.0 ml | [Li+].CCC[CH2-]
reactant | 3-bromo-5-fluoropyridine | 114 mmol, 20 g | BrC=1C=NC=C(C1)F | C5H3BrFN
reactant | Iodomethane | 136 mmol, 8.49 ml, 19.36 g | IC | CH3I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | EtOAc heptane | 54.1% yield | CCOC(=O)C.CCCCCCC | InChI=1S/C7H16.C4H8O2/c1-3-5-7-6-4-2;1-3-6-4(2)5/h3-7H2,1-2H3;3H2,1-2H3
